datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[C:34](=[O:35])[H:36]>>[C-:34]#[O+:35].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])([H:12])[H:36],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[S:5][H:15])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:6])[H:7].[S:5]([H:15])[C:16]([H:17])([H:18])[H:19],28.0328
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[O:17][O:18]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9][O:17][O:18],192.648096
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17],-9.6232
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([H:26])([H:27])[H:28])([H:11])([H:12])[H:13],27.3215
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25])[H:12])([H:10])[H:11],13.3051
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:17]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])[H:17])([H:9])[H:10],10.1462
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])([H:3])[H:4],74.3078
[C:5](=[C:6]([H:8])[H:9])[H:7].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5](=[C:6]([H:8])[H:9])[H:7].[S:0]=[C:1][S:2][H:4],-10.0416
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([S:8][H:19])([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:18])[H:3].[C:6]([C:7]([S:8][H:19])[c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:15])([H:16])[H:17],15.8992
[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])=[O:3])([H:4])[H:5].[H:9]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])=[O:3])([H:4])([H:5])[H:9],0.0
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15][H:16]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][O:15][H:16],6.635824
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:11])([H:9])[H:10],128.993
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],22.1752
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:15])([H:16])[H:17])[C:12]#[C:13][H:18])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:14])([C:11]([H:15])([H:16])[H:17])[C:12]#[C:13][H:18],100.834
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7]([C:8]([C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:13])([H:11])[H:12],30.7942
